US08134004B2
Step CA6D: Methyl 2-(2,2,2-trifluoro-1,1-dimethylethyl)quinoline-6-carboxylate
A mixture of the 6-bromo-2-(2,2,2-trifluoro-1,1-dimethylethyl)quinoline (950 mg, 3.0 mmol), triethylamine (1.25 ml, 9.0 mmol), 1,3-bis(diphenylphosphino)propane (123 mg, 0.3 mmol), palladium acetate (67 mg, 0.3 mmol) and methanol (4.8 ml) in DMF (10 ml) was stirred at reflux under carbon monoxide (1 atm) for 16 hours. Then the reaction was quenched with saturated sodium bicarbonate aqueous solution and the product was extracted with ethyl acetate and dried over sodium sulfate. Then, filtration, evaporation, purification through silica gel column chromatography eluting with hexane/ethyl acetate (25:1) furnished the title compound (777 mg, 88% yield) as a white solid. 1H NMR (300 MHz, CDCl3) ppm 1.74 (6H, s), 4.00 (3H, s), 7.71 (1H, d, J=8.8 Hz), 8.14 (1H, d, J=8.8 Hz), 8.25 (1H, d, J=8.8 Hz), 8.28-8.32 (1H, m), 8.58-8.59 (1H, m). MS (ESI): m/z 298 (M+H)+.

reactant | 6-bromo-2-(2,2,2-trifluoro-1,1-dimethylethyl)quinoline | 3.0 mmol, 950 mg | BrC=1C=C2C=CC(=NC2=CC1)C(C(F)(F)F)(C)C | C13H11BrF3N
reactant | triethylamine | 9.0 mmol, 1.25 ml | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis(diphenylphosphino)propane | 0.3 mmol, 123 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | methanol | 4.8 ml | CO | CH4O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.3 mmol, 67 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 2-(2,2,2-trifluoro-1,1-dimethylethyl)quinoline-6-carboxylate | 777 mg, 88% yield | FC(C(C)(C)C1=NC2=CC=C(C=C2C=C1)C(=O)OC)(F)F | C15H14F3NO2
